US09061013B2
3-fluoro-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid dimethylamide
To a stirred solution of 3-Fluoro-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid (Preparation 6, 0.1 g, 0.196 mmol) in DCM (2 mL) was added oxalyl chloride (0.023 g, 0.193 mmol) at 0° C. Reaction mixture was stirred at room temperature for 1 hour and cooled to 0° C. followed by addition of dimethyl amine (gas) was purged for 2 hours. Resulting reaction mixture was stirred at room temperature for 18 hours. After complete consumption of starting material, reaction mixture was diluted with DCM (3 mL), washed with water (3×3 mL). Organic layer was dried over sodium sulphate and evaporated in vacuo to get crude thick oil (0.077 g). Crude was purified by column chromatography on silica gel (100-200 mesh size), compound was eluted using 2% methanol in DCM and crystallized with chloroform:pentane (1:9) to afford off white solid (0.035 g, 33%). 1H-NMR (400 MHz, CDCl3) δ: 2.79-2.80 (m, 1H), 2.80-2.94 (m, 4H), 2.97 (s, 3H), 2.99 (s, 3H), 3.66-3.69 (m, 1H), 4.07 (d, 1H, J=17.16 Hz), 7.51 (d, 2H, J=8.16 Hz), 7.63-7.65 (m, 4H); LC-MS (m/z): [M−H] 535.0.

reactant | 3-Fluoro-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid | 0.196 mmol, 0.1 g | FC1(CC(C1)C(=O)O)C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl | C21H14Cl3F4NO3
reactant | oxalyl chloride | 0.193 mmol, 0.023 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl amine | CNC | C2H7N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-fluoro-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid dimethylamide | 0.035 g, 33% | CN(C(=O)C1CC(C1)(C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)F)C | C23H19Cl3F4N2O2
